US07625880B2
A 25 mL round bottom flask was charged with 2-[4-cyano-2-(2,6-dichloro-phenylamino)-3-methyl-3H-benzoimidazol-5-yl]-2-methyl-3-oxo-butyric acid ethyl ester (0.258 g, 0.562 mmol) and a stir bar. Water (3 mL), glacial acetic acid (3 mL) and concentrated sulfuric acid (3 mL) were combined and added to the round bottom flask while still hot (60° C.). The flask was sealed with a plastic stopper and heated in an oil bath at 100° C. After 2 hours, the flask was removed from the oil bath and stirred at room temperature overnight. The clear solution was then poured onto ice and neutralized with concentrated ammonium hydroxide. The resulting precipitate was recovered by filtration, resuspended in methanol and filtered. The resulting solid was washed with methanol until the filtrate was colorless to provide 2-(2,6-dichloro-phenylamino)-1,6,7-trimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one (0.106 g, 46%) as a light gray solid, which was used without further purification. 1H NMR (400 MHz, DMSO-d6+TFA) δ 11.47 (s, 1H), 7.78-7.68 (m, 4H), 7.59 (t, 1H, J=8.6 Hz), 4.28 (s, 3H), 2.31 (s, 3H), 2.22 (s, 3H); ESMS (m/z): found, 387.

reactant | 2-[4-cyano-2-(2,6-dichloro-phenylamino)-3-methyl-3H-benzoimidazol-5-yl]-2-methyl-3-oxo-butyric acid ethyl ester | 0.562 mmol, 0.258 g | C(C)OC(C(C(C)=O)(C)C1=C(C2=C(N=C(N2C)NC2=C(C=CC=C2Cl)Cl)C=C1)C#N)=O | C22H20Cl2N4O3
reactant | Water | 3 mL | O | H2O
reactant | sulfuric acid | 3 mL | S(O)(O)(=O)=O | H2O4S
solvent | acetic acid | 3 mL | C(C)(=O)O | C2H4O2
product | 2-(2,6-dichloro-phenylamino)-1,6,7-trimethyl-1,8-dihydro-imidazo[4,5-h]isoquinolin-9-one | 0.106 g, 46% | ClC1=C(C(=CC=C1)Cl)NC=1N(C2=C(C=CC=3C(=C(NC(C23)=O)C)C)N1)C | C19H16Cl2N4O
